US05391553
9-Amino-7-dodecyl-1,2,3,4-tetrahydroacridine, hydrochloride
A 4.0 g sample of 9-Chloro-7-dodecyl-1,2,3,4-tetrahydroacridine was heated at 150° C. as NH3 was bubbled into the solution. After 2 hours the reaction mixture was distributed between 10% NaOH and 2-butanone and then the organic phase was dried and concentrated. The residue was dissolved in Et2O and treated with 5% HCl. The insoluble hydrochloride was filtered off and recrystallized from MeOH/Et2O to give 2.32 g of analytically pure product, m.p. 257° d.

reactant | 9-Chloro-7-dodecyl-1,2,3,4-tetrahydroacridine | ClC=1C2=CC(=CC=C2N=C2CCCCC12)CCCCCCCCCCCC | C25H36ClN
reactant | NH3 | N | H3N
product | 9-Amino-7-dodecyl-1,2,3,4-tetrahydroacridine, hydrochloride | Cl.NC=1C2=CC(=CC=C2N=C2CCCCC12)CCCCCCCCCCCC | InChI=1S/C25H38N2.ClH/c1-2-3-4-5-6-7-8-9-10-11-14-20-17-18-24-22(19-20)25(26)21-15-12-13-16-23(21)27-24;/h17-19H,2-16H2,1H3,(H2,26,27);1H
